Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
Altered mental status, hypoxia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with hx of ___ disease, dementia, esophageal 
motility and reactive airway disease who initially presented to 
___ with altered mental status and hypoxia.  
The patient was recently discharged from ___ after presenting 
with tachypnea, constipation and possibly aspiration (see 
below). She was initially doing well at home but on the morning 
of admission, her son noted that she was more lethargic and was 
having trouble clearing her throat. He checked her pulse ox and 
her oxygen sat was 80%. Of note, son reported she had taken a 
Xanax prior to this episode for anxiety. He called EMS and gave 
her a nebulizer.  EMS came and placed the patient on a 
non-rebreather in the field. Son reports that patient's dyspnea 
improved by time she reached the ED.

At ___, her initial oxygen saturation was 85% but was 
weaned down to 4L in ED. Labs there significant for a wbc 11, UA 
w/ ___ WBC, 1+ bact, 1+ nitrite; cloudy. Her trop was 0.02.  
She was transferred to ___ for further evaluation of elevated 
troponin.  

The patient was unable to answer questions at the time of 
interview but son notes that she had not had any fevers, chills, 
complaints of dysuria or frequency. Son denies obvious 
aspiration event.  Patient is on honey thick liquids at home.  
Denies vomiting.  Upon arrival to ___, she is on room air.

Previous hospital admission at ___ notes were reviewed and are
summarized as follows: Admit ___ with 2 days
tachypnea and 3 days abdominal pain for which she had been to 
urgent care prior.
Constipation and mild distention noted. Thought to have 
aspirated
prior to admission. Per son noted pt requiring apple-sauce
consistency liquids and often with 'crackling' sound after
eating, usually clears with coughing. Of note, on ___, UCx
growing pan-sensi Enterococcus (not speciated)

She was admitted to Medicine.

 
Past Medical History:
___ Disease  
HTN 
HLD   
Esophageal dysmotility
Bilateral blindness  
Reactive airway disease 
Bronchitis 
Hypothyroidism  

 
Social History:
___
Family History:
Reviewed and found to be not relevant to this illness/reason for 
hospitalization.

 
Physical Exam:
ADMISSION EXAM:

VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress; oriented to person,
place
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  jugular flat
RESP: difficult auscultation given poor patient participation;
clear in bases; no wheeze; kyphosis noted
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented to person/place, face symmetric, gaze
conjugate with EOMI, moves all limbs, sensation to light touch
grossly intact throughout
PSYCH: unable to answer any but basic questions

DISCHARGE EXAM:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress; answering questions
this morning
EYES: Anicteric, pupils equally round
ENT: Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  jugular flat
RESP: easy work of breathing, clear in bases; kyphosis noted
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Sleepy, AOx2, moving all extremities
 
Pertinent Results:
ADMISSION LABS:
___ 06:17PM   cTropnT-<0.01
___ 01:20PM URINE  COLOR-Yellow APPEAR-Cloudy* SP 
___
___ 01:20PM URINE  BLOOD-NEG NITRITE-POS* PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-8.0 
LEUK-NEG
___ 01:20PM URINE  RBC-<1 WBC-<1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 01:20PM URINE  AMORPH-MANY*
___ 12:47PM   LACTATE-1.3
___ 12:30PM   GLUCOSE-109* UREA N-28* CREAT-0.7 SODIUM-141 
POTASSIUM-4.3 CHLORIDE-100 TOTAL CO2-28 ANION GAP-13
___ 12:30PM   ALT(SGPT)-<5 AST(SGOT)-21 ALK PHOS-55 TOT 
BILI-1.1
___ 12:30PM   cTropnT-0.02*
___ 12:30PM   ALBUMIN-4.2
___ 12:30PM   WBC-11.5* RBC-3.62* HGB-10.9* HCT-34.2 MCV-95 
MCH-30.1 MCHC-31.9* RDW-15.3 RDWSD-52.7*
___ 12:30PM   NEUTS-87.0* LYMPHS-7.1* MONOS-4.0* EOS-0.8* 
BASOS-0.3 IM ___ AbsNeut-10.04* AbsLymp-0.82* AbsMono-0.46 
AbsEos-0.09 AbsBaso-0.04

PERTINENT LABS:
Blood cultures no growth
Urine culture > 100,000 CFU Klebsiella, pan sensitive

DISCHARGE LABS:
___ 07:25AM BLOOD WBC-7.5 RBC-3.06* Hgb-9.2* Hct-29.9* 
MCV-98 MCH-30.1 MCHC-30.8* RDW-15.1 RDWSD-54.9* Plt ___
___ 07:25AM BLOOD Neuts-68.5 Lymphs-18.8* Monos-8.2 Eos-3.4 
Baso-0.4 Im ___ AbsNeut-5.11 AbsLymp-1.40 AbsMono-0.61 
AbsEos-0.25 AbsBaso-0.03
___ 07:25AM BLOOD Glucose-86 UreaN-21* Creat-0.5 Na-140 
K-3.6 Cl-103 HCO3-24 AnGap-13
 
Brief Hospital Course:
# Hypoxia requiring supplemental oxygen: 
The etiology of the patient's hypoxia at home is unclear.  Her 
oxygen saturations improved quickly when she reached ___ 
ED and she was on room air when she arrived at ___.  Chest XR 
did now show a pneumonia.  I suspect she was having trouble 
clearing her throat due to lethargy (side-effect from prior 
Xanax use) and had a transient airway obstruction or mucus plug 
as the source of her hypoxia.  While she was in the hospital she 
was continued on her home duonebs, flovent and prednisone.  Her 
son ___ plans to only give her half of a Xanax for anxiety in 
the future.

# Toxic Metabolic Encephalopathy: 
Her altered mental status at the time of admission was likely 
from a combination of medication side-effect (Xanax) as well as 
urinary tract infection.  UA was positive and urine culture grew 
> 100,000 CFU pan sensitive Klebsiella.  She completed a course 
of antibiotics while hospitalized.  Sedating medications were 
used sparingly and son ___ try melatonin for sleep rather 
than a benzodiazepine.  Trazodone was held.  

# Troponinemia:
- Initial troponin at ___ was 0.02.  She was 
transferred to ___ for further evaluation.  Her troponins 
trended 0.02 --> 0.02 --> <0.01.  Her EKG was unchanged from her 
baseline and she did not show any signs of ACS.

# Constipation: Continue senna, Miralax, bisacodyl

CHRONIC/STABLE PROBLEMS:
# Anemia: Chronic, stable
# Glaucoma: Continued home eye gtts
# Hypothyroidism: Continued levothyroxine
# Hyperlipidemia: Continued atorvastatin
# Anxiety: Continued alprazolam sparingly as needed
# Insomnia: Substitute melatonin for trazodone at discharge
# GERD: Nexium

Appeal of Discharge: Patient's son ___ appealed his mother's 
discharge.  He had a few concerns as follows.  He wanted his 
mother to complete the course of antibiotics in the hospital.  I 
explained that this was not necessary since we had culture data 
to ensure good response to PO medications.  He wanted his mother 
to have a feeding tube placed.  While this can be considered, 
___ had recently passed a swallow evaluation and had done well 
with her medications and honey thick diet in the hospital.  She 
showed no signs of aspiration.  When I initially discussed a 
feeding tube with ___, she said she did not want one.  I 
advised ___ to discuss this topic further with his PCP and 
___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. ALPRAZolam 0.25 mg PO TID:PRN anxiety 
3. Atorvastatin 20 mg PO QPM 
4. carbidopa 25 mg oral QAM 
5. Carbidopa-Levodopa (___) 2 TAB PO BID 
6. Carbidopa-Levodopa (___) 1.5 TAB PO BID 
7. Carbidopa-Levodopa (___) 1 TAB PO ___ 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. Hyoscyamine 0.125 mg SL TID:PRN abd pain 
10. Ipratropium Bromide Neb 1 NEB IH Q6H 
11. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
12. Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob 
13. Levothyroxine Sodium 25 mcg PO DAILY 
14. Multivitamins W/minerals 1 TAB PO DAILY 
15. Mylanta 10 mL oral QID:PRN heartburn 
16. Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation BID 

17. Polyethylene Glycol 17 g PO DAILY 
18. PredniSONE 10 mg PO DAILY 
19. Senna 17.2 mg PO BID:PRN Constipation - First Line 
20. TraZODone 12.5 mg PO QHS:PRN insomnia 
21. Bisacodyl 10 mg PO DAILY:PRN Constipation 
22. Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID 
23. melatonin 3 mg oral QHS 
24. Nexium 40 mg Other DAILY 
25. Carbidopa-Levodopa (___) 2 TAB PO Q24 

 
Discharge Medications:
1.  Carbidopa-Levodopa (___) 2 TAB PO Q24H  
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
3.  ALPRAZolam 0.25 mg PO TID:PRN anxiety  
4.  Atorvastatin 20 mg PO QPM  
5.  Bisacodyl 10 mg PO DAILY:PRN Constipation  
6.  Carbidopa-Levodopa (___) 2 TAB PO BID  
7.  Carbidopa-Levodopa (___) 2 TAB PO Q24 
4:00 ___  
8.  Carbidopa-Levodopa (___) 1.5 TAB PO BID  
9.  Carbidopa-Levodopa (___) 1 TAB PO ___  
10.  carbidopa 25 mg oral QAM  
11.  Chlorhexidine Gluconate 0.12% Oral Rinse 15 mL ORAL BID  
12.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
13.  Hyoscyamine 0.125 mg SL TID:PRN abd pain  
14.  Ipratropium Bromide Neb 1 NEB IH Q6H  
15.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
16.  Levalbuterol Neb 0.63 mg NEB Q6H:PRN sob  
17.  Levothyroxine Sodium 25 mcg PO DAILY  
18.  melatonin 3 mg oral QHS  
19.  Multivitamins W/minerals 1 TAB PO DAILY  
20.  Mylanta 10 mL oral QID:PRN heartburn  
21.  Nexium 40 mg Other DAILY  
22.  Perforomist (formoterol fumarate) 20 mcg/2 mL inhalation 
BID  
23.  Polyethylene Glycol 17 g PO DAILY  
24.  PredniSONE 10 mg PO DAILY  
25.  Senna 17.2 mg PO BID:PRN Constipation - First Line  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Urinary Tract Infection

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Bedbound.

 
Discharge Instructions:
You were admitted with altered mental status and decreased 
oxygen levels.  You were likely altered (confused, not acting 
yourself) since you had a urinary tract infection and you had 
taken a sedating medication, Xanax, the night before.  You were 
given an antibiotic to treat your pneumonia. 

You also had low oxygen levels at home.  Since you were confused 
and sleepy, you likely had trouble clearing your mucus 
secretions.  This brief mucus blockage was the likely cause of 
your low oxygen level at home.  You did not show any signs of 
pneumonia and your oxygen levels quickly returned to normal.

At home, please ensure you give yourself adequate time to eat 
your meals.  Please decrease use of sedating medications like 
Xanax or take half a pill of Xanax.  You will follow-up with 
your primary care doctor and ___ as below.
 
Followup Instructions:
___